US05635510
57.7 Synthesis of 2-[3-(4-trifluoromethyl-phenyl)-1-(3-isopropoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-bromide
Combine 2-[3-(4-trifluoromethyl-phenyl)-1-(3-isopropoxy-benzoyl)-pyrrolidin-3-yl]-ethanol (10 mmol), carbon tetrabromide (12.5 mmol), and dichloromethane (15 mL). Cool in an ice bath. Add in portions, triphenylphosphine (15 mmol). After 1 h, concentrate in vacuo to obtain a residue. Purify to obtain the title compound.

reactant | 2-[3-(4-trifluoromethyl-phenyl)-1-(3-isopropoxy-benzoyl)-pyrrolidin-3-yl]-ethanol | 10 mmol | FC(C1=CC=C(C=C1)C1(CN(CC1)C(C1=CC(=CC=C1)OC(C)C)=O)CCO)(F)F | C23H26F3NO3
reactant | carbon tetrabromide | 12.5 mmol | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 15 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-[3-(4-trifluoromethyl-phenyl)-1-(3-isopropoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-bromide | FC(C1=CC=C(C=C1)C1(CN(CC1)C(C1=CC(=CC=C1)OC(C)C)=O)CCBr)(F)F | C23H25BrF3NO2
